US09422275B2
A solution of compound N-(4-(2-chloroacetyl)-3,5-dimethylphenyl)acetamide (3.4 g, 14.2 mmol), thiourea (1.79 g, 23.6 mmol) and KI (150 mg) in toluene (50 mL) and 95% EtOH (50 mL) was refluxed overnight. After the solvent was distilled off, the residue was dissolved in EtOAc (600 mL) and washed with saturated Na2CO3 solution and brine successively, and dried over Na2SO4. After removal of solvent, the residue was subjected to column chromatography (silica gel, EtOAc:NH4OH=100:0.5) to furnish N-(4-(2-aminothiazol-4-yl)-3,5-dimethylphenyl)acetamide (3.2 g, 86.1% yield).

reactant | N-(4-(2-chloroacetyl)-3,5-dimethylphenyl)acetamide | 14.2 mmol, 3.4 g | ClCC(=O)C1=C(C=C(C=C1C)NC(C)=O)C | C12H14ClNO2
reactant | thiourea | 23.6 mmol, 1.79 g | NC(=S)N | CH4N2S
reactant | EtOH | 50 mL | CCO | C2H6O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-(2-aminothiazol-4-yl)-3,5-dimethylphenyl)acetamide | 3.2 g, 86.1% yield | NC=1SC=C(N1)C1=C(C=C(C=C1C)NC(C)=O)C | C13H15N3OS
